US03948949
10 g. of 2-(9-oxo-2-xanthenyl)-propanol is hydrogenated in 300 ml. of ethanol in the presence of 0.5 g. of 5% Pd-C under a pressure of 3 atmospheres and at 20° until absorption of the theoretical amount of H. After filtration and concentration, 2-(2-xanthenyl)-propanol is obtained, m.p. 86°-89°.

reactant | 2-(9-oxo-2-xanthenyl)-propanol | O=C1C2=CC=CC=C2OC=2C=CC(=CC12)C(CO)C | C16H14O3
solvent | ethanol | C(C)O | C2H6O
product | 2-(2-xanthenyl)-propanol | C1=C(C=CC=2OC3=CC=CC=C3CC12)C(CO)C | C16H16O2
